US03966775
A mixture of 5.0 parts of 5-nitro-1,4,4a,9a-tetrahydroanthraquinone with 50 parts of pyridine was stirred at 70° C for 1 hour and then poured into 500 parts of water to precipitate crystals. After cooled to 20°C, the crystals were recovered by filtration, washed with water and dried under reduced pressure to obtain 4.5 parts of 1-hydroxylaminoanthraquinone.

reactant | 5-nitro-1,4,4a,9a-tetrahydroanthraquinone | [N+](=O)([O-])C1=C2C(C3CC=CCC3C(C2=CC=C1)=O)=O | C14H11NO4
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 1-hydroxylaminoanthraquinone | ONC1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H9NO3
